US05166347
Preparation of N-cyano-N'-(2-nitroxyethyl)-3-pyridinecarboximidamide (method i)
Isopropyl N-cyano-3-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (10 ml), and 2-nitroxyethylamine nitrate (0.49 g, 2.9 mmol) and sodium methoxide (0.16 g, 2.9 mmol) were added. The mixture was stirred at room temperature for 10 minutes. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue was extracted with dichloromethane (50 ml×3). The dichloromethane layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrated residue was crystallized from dichloromethane-diethyl ether to give the title compound (0.48 g, 2.1 mmol, yield: 79%) as colorless needles.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 2-nitroxyethylamine nitrate | 2.9 mmol, 0.49 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | sodium methoxide | 2.9 mmol, 0.16 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(2-nitroxyethyl)-3-pyridinecarboximidamide | 2.1 mmol, 0.48 g, yield: 79% | C(#N)NC(=NCCO[N+](=O)[O-])C=1C=NC=CC1 | C9H9N5O3
